US07759518B2
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine (0.182 mmol) was reacted with 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride (0.5 mmol) to obtain 5-chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-1,3-dimethyl-1H-pyrazole-4-sulfonamide. 1H NMR (300 MHz, CDCl3)) δ 2.1 (s, 3H), 3.6 (s, 3H), 5.8 (s, 1H), 5.95 (dt, 1H), 7.0 (q, 1H), 7.2 (d, 1H), 7.3 (m, 2H), 7.4 (dd, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | 0.182 mmol | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride | 0.5 mmol | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
product | 5-chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-1,3-dimethyl-1H-pyrazole-4-sulfonamide | ClC1=C(C(=NN1C)C)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C17H13ClF3IN4O2S
